US06255301B1
(i) 3,5-Dichlorobenzyl Alcohol
Prepared according to the method described in Example X(i) above from 3,5-dichlorobenzoic acid (15.3 g; 80 mmol), TEA (8.9 g; 88 mmol), i-Bu chloroformate (12 g; 88 mmol) and NaBH4 (9.0 g; 240 mmol), yielding 10.5 g (74%) of sub-title compound.

reactant | 3,5-dichlorobenzoic acid | 80 mmol, 15.3 g | ClC=1C=C(C(=O)O)C=C(C1)Cl | C7H4Cl2O2
reactant | NaBH4 | 240 mmol, 9.0 g | [BH4-].[Na+]
product | 3,5-Dichlorobenzyl Alcohol | 10.5 g, 74% | ClC=1C=C(CO)C=C(C1)Cl | C7H6Cl2O
